US07812022B2
Step A: 2,2,2-Trifluoro-N-methyl-N-[(3-nitrophenyl)methyl]acetamide
To a suspension of a 60% dispersion of sodium hydride in mineral oil (96 mg, 2.4 mmol) in dry tetrahydrofuran (5 mL), cooled to 0° C., was added a solution of 2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]acetamide (500 mg, 2.0 mmol) in 5 mL dry teterahydrofuran. After stirring for 1 hour at 0° C., methyl iodide (132 μL, 2.2 mmol) was added in one portion. The reaction was stirred for 1 hour at 0° C., and warmed to rt overnight. After 16 h, the reaction mixture was concentrated, and the residue was partitioned between saturated aqueous NaHCO3 and EtOAc. The organic layer was dried over Na2SO4, filtered, adsorbed onto silica, and purified by column chromatography to yield the desired compound (0.36 g, 1.4 mmol, 69% yield). 1H NMR (400 MHz, CDCl3): δ 8.13-8.22 (m, 2H), 7.56-7.64 (m, 2H), 4.74 (s, 2H), 3.14 (s, 3H). MS (ESI) m/z=263 [M+H]+.

reactant | sodium hydride | [H-].[Na+]
reactant | 2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]acetamide | 2.0 mmol, 500 mg | FC(C(=O)NCC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C9H7F3N2O3
reactant | methyl iodide | 2.2 mmol, 132 μL | CI | CH3I
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,2,2-Trifluoro-N-methyl-N-[(3-nitrophenyl)methyl]acetamide | 1.4 mmol, 0.36 g, 69% yield | FC(C(=O)N(CC1=CC(=CC=C1)[N+](=O)[O-])C)(F)F | C10H9F3N2O3
